US05554607
1-Allyl-3-(2,6-dimethylphenyl)-2-thioxo-imidazolidin-4-one
A mixture of N-allyl glycine (17.4 g), 2,6-dimethylphenyl-isothiocyanate (20 g), triethylamine (20.2 g), and methylene chloride (150 mL) was heated at reflux for 3 hours. The reaction mixture was evaporated to dryness. The residual gum was dissolved in diethyl ether, then treated with etheral hydrogen chloride. A white solid formed. The solid was filtered and discarded. The filtrate was concentrated to a residue. The residue was chromatographed on silica gel (CH2Cl2) to give title compound (5.2 g) as an orange solid, m.p. 43°-46° C. Anal. Calcd. for. C14H16N2O S: C, 64.59; H, 6.19; N, 10.76. Found: (2, 64.52; H, 6.08; N, 10.66. Mass spectrum (EI, M.+) m/z 260.

reactant | N-allyl glycine | 17.4 g | C(C=C)NCC(=O)O | C5H9NO2
reactant | 2,6-dimethylphenyl-isothiocyanate | 20 g | CC1=C(C(=CC=C1)C)N=C=S | C9H9NS
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 1-Allyl-3-(2,6-dimethylphenyl)-2-thioxo-imidazolidin-4-one | 5.2 g | C(C=C)N1C(N(C(C1)=O)C1=C(C=CC=C1C)C)=S | C14H16N2OS
